US07674565B2
Preparation of bis(butoxymethyene)-triphenylamine (Charge Transport Compound 1)
A mixture of di(hydroxymethylene)-triphenylamine (0.25 g), butanol (1 g) and an ion exchange resin AMBERYST® 15 (0.05 g) was shaken at room temperature (about 23° C.) until the reaction was completed as indicated by thin layer chromatography (TLC). The mixture was filtered to remove the AMBERLYST 15 catalyst. Removal of the solvent under reduced pressure yielded charge transport compound (1). The structure was confirmed by 1H NMR spectrum.

reactant | di(hydroxymethylene)-triphenylamine | 0.25 g | OC=C1C(C(=CC=C1)N(C1=CC=CC=C1)C1=CC=CC=C1)=CO | C20H17NO2
solvent | butanol | 1 g | C(CCC)O | C4H10O
product | bis(butoxymethyene)-triphenylamine | C(CCC)OC=C1C(C(=CC=C1)N(C1=CC=CC=C1)C1=CC=CC=C1)=COCCCC | C28H33NO2
